continuous-time end-to-end EP XOR (single .tran)
.model NNR NMOS (LEVEL=1 VTO=0.2  KP=120u LAMBDA=0.02 GAMMA=0 PHI=0.7)
.model PNR PMOS (LEVEL=1 VTO=-0.2 KP=40u  LAMBDA=0.02 GAMMA=0 PHI=0.7)
.subckt dsyn inp inn outp outn wp wn vdd
M1 outp inp tp 0 NNR W=200u L=100u
M2 outn inn tp 0 NNR W=200u L=100u
Mtp tp wp 0 0 NNR W=200u L=100u
M3 outn inp tn 0 NNR W=200u L=100u
M4 outp inn tn 0 NNR W=200u L=100u
Mtn tn wn 0 0 NNR W=200u L=100u
.ends
.subckt dsynb inp inn outp outn wp wn vdd
M1 outp inp tp 0 NNR W=200u L=100u
M2 outn inn tp 0 NNR W=200u L=100u
Mtp tp wp 0 0 NNR W=200u L=100u
M3 outn inp tn 0 NNR W=200u L=100u
M4 outp inn tn 0 NNR W=200u L=100u
Mtn tn wn 0 0 NNR W=200u L=100u
.ends
.subckt dneuron up un ap an vdd vbn
M1 an up tn 0 NNR W=200u L=100u
M2 ap un tn 0 NNR W=200u L=100u
Mt tn vbn 0 0 NNR W=200u L=100u
RLa vdd ap 800k
RLb vdd an 800k
.ends
.subckt gupd xp xn yp yn wp wn psig psigb vdd vbn
Mtail nt vbn 0 0 NNR W=400u L=100u
M5 na yp nt 0 NNR W=200u L=100u
M6 nb yn nt 0 NNR W=200u L=100u
M1 iop xp na 0 NNR W=200u L=100u
M2 ion xn na 0 NNR W=200u L=100u
M3 ion xp nb 0 NNR W=200u L=100u
M4 iop xn nb 0 NNR W=200u L=100u
Mlp iop iop vdd vdd PNR W=200u L=100u
Mln ion ion vdd vdd PNR W=200u L=100u
MopA ca iop vdd vdd PNR W=200u L=100u
MopB cb ion vdd vdd PNR W=200u L=100u
Msw1 ca psig  wp 0 NNR W=300u L=100u
Msw2 cb psig  wn 0 NNR W=300u L=100u
Msw3 ca psigb wn 0 NNR W=300u L=100u
Msw4 cb psigb wp 0 NNR W=300u L=100u
.ends
.subckt gupd2 xp xn yp yn wp wn psig psigb vdd vbn
Msa yA yp psig 0 NNR W=300u L=100u
Msb yA yn psigb 0 NNR W=300u L=100u
Msc yB yn psig 0 NNR W=300u L=100u
Msd yB yp psigb 0 NNR W=300u L=100u
Mtail nt vbn 0 0 NNR W=400u L=100u
M5 na yA nt 0 NNR W=200u L=100u
M6 nb yB nt 0 NNR W=200u L=100u
M1 iop xp na 0 NNR W=200u L=100u
M2 ion xn na 0 NNR W=200u L=100u
M3 ion xp nb 0 NNR W=200u L=100u
M4 iop xn nb 0 NNR W=200u L=100u
Mlp iop iop vdd vdd PNR W=200u L=100u
Mln ion ion vdd vdd PNR W=200u L=100u
Mpu_p wp iop vdd vdd PNR W=200u L=100u
Mpu_n wn ion vdd vdd PNR W=200u L=100u
MpRn nrn ion vdd vdd PNR W=200u L=100u
MnRn nrn nrn 0 0 NNR W=200u L=100u
Mpd_p wp nrn 0 0 NNR W=200u L=100u
MpRp nrp iop vdd vdd PNR W=200u L=100u
MnRp nrp nrp 0 0 NNR W=200u L=100u
Mpd_n wn nrp 0 0 NNR W=200u L=100u
.ends
Vdd vdd 0 1.0
Vbn vbn 0 0.30
Vgbn gbn 0 0.7
Vgbnh gbnh 0 0.7
Vgbnb gbnb 0 0.7
Vbphi bp_hi 0 0.8
Vbplo bp_lo 0 0.2
Vax1 a_xp1 0 PWL(0.0n 0.2000 299.9n 0.2000 300.0n 0.2000 599.9n 0.2000 600.0n 0.8000 899.9n 0.8000 900.0n 0.8000 1199.9n 0.8000 1200.0n 0.2000 1499.9n 0.2000 1500.0n 0.2000 1799.9n 0.2000 1800.0n 0.8000 2099.9n 0.8000 2100.0n 0.8000)
Vax1n a_xn1 0 PWL(0.0n 0.8000 299.9n 0.8000 300.0n 0.8000 599.9n 0.8000 600.0n 0.2000 899.9n 0.2000 900.0n 0.2000 1199.9n 0.2000 1200.0n 0.8000 1499.9n 0.8000 1500.0n 0.8000 1799.9n 0.8000 1800.0n 0.2000 2099.9n 0.2000 2100.0n 0.2000)
Vax2 a_xp2 0 PWL(0.0n 0.2000 299.9n 0.2000 300.0n 0.8000 599.9n 0.8000 600.0n 0.2000 899.9n 0.2000 900.0n 0.8000 1199.9n 0.8000 1200.0n 0.2000 1499.9n 0.2000 1500.0n 0.8000 1799.9n 0.8000 1800.0n 0.2000 2099.9n 0.2000 2100.0n 0.8000)
Vax2n a_xn2 0 PWL(0.0n 0.8000 299.9n 0.8000 300.0n 0.2000 599.9n 0.2000 600.0n 0.8000 899.9n 0.8000 900.0n 0.2000 1199.9n 0.2000 1200.0n 0.8000 1499.9n 0.8000 1500.0n 0.2000 1799.9n 0.2000 1800.0n 0.8000 2099.9n 0.8000 2100.0n 0.2000)
Vtp vtp 0 PWL(0.0n 0.4000 299.9n 0.4000 300.0n 0.6000 599.9n 0.6000 600.0n 0.6000 899.9n 0.6000 900.0n 0.4000 1199.9n 0.4000 1200.0n 0.4000 1499.9n 0.4000 1500.0n 0.6000 1799.9n 0.6000 1800.0n 0.6000 2099.9n 0.6000 2100.0n 0.4000)
Vtn vtn 0 PWL(0.0n 0.6000 299.9n 0.6000 300.0n 0.4000 599.9n 0.4000 600.0n 0.4000 899.9n 0.4000 900.0n 0.6000 1199.9n 0.6000 1200.0n 0.6000 1499.9n 0.6000 1500.0n 0.4000 1799.9n 0.4000 1800.0n 0.4000 2099.9n 0.4000 2100.0n 0.6000)
Vpsig psig 0 PWL(0.0n 0.0 149.5n 0.0 150.5n 2.0 299.5n 2.0 300.5n 0.0 449.5n 0.0 450.5n 2.0 599.5n 2.0 600.5n 0.0 749.5n 0.0 750.5n 2.0 899.5n 2.0 900.5n 0.0 1049.5n 0.0 1050.5n 2.0 1199.5n 2.0 1200.5n 0.0 1349.5n 0.0 1350.5n 2.0 1499.5n 2.0 1500.5n 0.0 1649.5n 0.0 1650.5n 2.0 1799.5n 2.0 1800.5n 0.0 1949.5n 0.0 1950.5n 2.0 2099.5n 2.0 2100.5n 0.0 2249.5n 0.0 2250.5n 2.0 2399.5n 2.0 2400.5n 0.0)
Vpsigb psigb 0 PWL(0.0n 2.0 149.5n 2.0 150.5n 0.0 299.5n 0.0 300.5n 2.0 449.5n 2.0 450.5n 0.0 599.5n 0.0 600.5n 2.0 749.5n 2.0 750.5n 0.0 899.5n 0.0 900.5n 2.0 1049.5n 2.0 1050.5n 0.0 1199.5n 0.0 1200.5n 2.0 1349.5n 2.0 1350.5n 0.0 1499.5n 0.0 1500.5n 2.0 1649.5n 2.0 1650.5n 0.0 1799.5n 0.0 1800.5n 2.0 1949.5n 2.0 1950.5n 0.0 2099.5n 0.0 2100.5n 2.0 2249.5n 2.0 2250.5n 0.0 2399.5n 0.0 2400.5n 2.0)
Vnen nen 0 PWL(0.0n 0.0 149.5n 0.0 150.5n 2.0 299.5n 2.0 300.5n 0.0 449.5n 0.0 450.5n 2.0 599.5n 2.0 600.5n 0.0 749.5n 0.0 750.5n 2.0 899.5n 2.0 900.5n 0.0 1049.5n 0.0 1050.5n 2.0 1199.5n 2.0 1200.5n 0.0 1349.5n 0.0 1350.5n 2.0 1499.5n 2.0 1500.5n 0.0 1649.5n 0.0 1650.5n 2.0 1799.5n 2.0 1800.5n 0.0 1949.5n 0.0 1950.5n 2.0 2099.5n 2.0 2100.5n 0.0 2249.5n 0.0 2250.5n 2.0 2399.5n 2.0 2400.5n 0.0)
Cwp_w11 wp_w11 0 8p
Cwn_w11 wn_w11 0 8p
Rcp_w11 wp_w11 cm_w11 2g
Rcn_w11 wn_w11 cm_w11 2g
Msp_w11 wp_w11 cm_w11 0 0 NNR W=700u L=100u
Msn_w11 wn_w11 cm_w11 0 0 NNR W=700u L=100u
Cwp_w21 wp_w21 0 8p
Cwn_w21 wn_w21 0 8p
Rcp_w21 wp_w21 cm_w21 2g
Rcn_w21 wn_w21 cm_w21 2g
Msp_w21 wp_w21 cm_w21 0 0 NNR W=700u L=100u
Msn_w21 wn_w21 cm_w21 0 0 NNR W=700u L=100u
Cwp_o1 wp_o1 0 8p
Cwn_o1 wn_o1 0 8p
Rcp_o1 wp_o1 cm_o1 2g
Rcn_o1 wn_o1 cm_o1 2g
Msp_o1 wp_o1 cm_o1 0 0 NNR W=700u L=100u
Msn_o1 wn_o1 cm_o1 0 0 NNR W=700u L=100u
Cwp_bh1 wp_bh1 0 8p
Cwn_bh1 wn_bh1 0 8p
Rcp_bh1 wp_bh1 cm_bh1 2g
Rcn_bh1 wn_bh1 cm_bh1 2g
Msp_bh1 wp_bh1 cm_bh1 0 0 NNR W=700u L=100u
Msn_bh1 wn_bh1 cm_bh1 0 0 NNR W=700u L=100u
Cwp_w12 wp_w12 0 8p
Cwn_w12 wn_w12 0 8p
Rcp_w12 wp_w12 cm_w12 2g
Rcn_w12 wn_w12 cm_w12 2g
Msp_w12 wp_w12 cm_w12 0 0 NNR W=700u L=100u
Msn_w12 wn_w12 cm_w12 0 0 NNR W=700u L=100u
Cwp_w22 wp_w22 0 8p
Cwn_w22 wn_w22 0 8p
Rcp_w22 wp_w22 cm_w22 2g
Rcn_w22 wn_w22 cm_w22 2g
Msp_w22 wp_w22 cm_w22 0 0 NNR W=700u L=100u
Msn_w22 wn_w22 cm_w22 0 0 NNR W=700u L=100u
Cwp_o2 wp_o2 0 8p
Cwn_o2 wn_o2 0 8p
Rcp_o2 wp_o2 cm_o2 2g
Rcn_o2 wn_o2 cm_o2 2g
Msp_o2 wp_o2 cm_o2 0 0 NNR W=700u L=100u
Msn_o2 wn_o2 cm_o2 0 0 NNR W=700u L=100u
Cwp_bh2 wp_bh2 0 8p
Cwn_bh2 wn_bh2 0 8p
Rcp_bh2 wp_bh2 cm_bh2 2g
Rcn_bh2 wn_bh2 cm_bh2 2g
Msp_bh2 wp_bh2 cm_bh2 0 0 NNR W=700u L=100u
Msn_bh2 wn_bh2 cm_bh2 0 0 NNR W=700u L=100u
Cwp_w13 wp_w13 0 8p
Cwn_w13 wn_w13 0 8p
Rcp_w13 wp_w13 cm_w13 2g
Rcn_w13 wn_w13 cm_w13 2g
Msp_w13 wp_w13 cm_w13 0 0 NNR W=700u L=100u
Msn_w13 wn_w13 cm_w13 0 0 NNR W=700u L=100u
Cwp_w23 wp_w23 0 8p
Cwn_w23 wn_w23 0 8p
Rcp_w23 wp_w23 cm_w23 2g
Rcn_w23 wn_w23 cm_w23 2g
Msp_w23 wp_w23 cm_w23 0 0 NNR W=700u L=100u
Msn_w23 wn_w23 cm_w23 0 0 NNR W=700u L=100u
Cwp_o3 wp_o3 0 8p
Cwn_o3 wn_o3 0 8p
Rcp_o3 wp_o3 cm_o3 2g
Rcn_o3 wn_o3 cm_o3 2g
Msp_o3 wp_o3 cm_o3 0 0 NNR W=700u L=100u
Msn_o3 wn_o3 cm_o3 0 0 NNR W=700u L=100u
Cwp_bh3 wp_bh3 0 8p
Cwn_bh3 wn_bh3 0 8p
Rcp_bh3 wp_bh3 cm_bh3 2g
Rcn_bh3 wn_bh3 cm_bh3 2g
Msp_bh3 wp_bh3 cm_bh3 0 0 NNR W=700u L=100u
Msn_bh3 wn_bh3 cm_bh3 0 0 NNR W=700u L=100u
Cwp_w14 wp_w14 0 8p
Cwn_w14 wn_w14 0 8p
Rcp_w14 wp_w14 cm_w14 2g
Rcn_w14 wn_w14 cm_w14 2g
Msp_w14 wp_w14 cm_w14 0 0 NNR W=700u L=100u
Msn_w14 wn_w14 cm_w14 0 0 NNR W=700u L=100u
Cwp_w24 wp_w24 0 8p
Cwn_w24 wn_w24 0 8p
Rcp_w24 wp_w24 cm_w24 2g
Rcn_w24 wn_w24 cm_w24 2g
Msp_w24 wp_w24 cm_w24 0 0 NNR W=700u L=100u
Msn_w24 wn_w24 cm_w24 0 0 NNR W=700u L=100u
Cwp_o4 wp_o4 0 8p
Cwn_o4 wn_o4 0 8p
Rcp_o4 wp_o4 cm_o4 2g
Rcn_o4 wn_o4 cm_o4 2g
Msp_o4 wp_o4 cm_o4 0 0 NNR W=700u L=100u
Msn_o4 wn_o4 cm_o4 0 0 NNR W=700u L=100u
Cwp_bh4 wp_bh4 0 8p
Cwn_bh4 wn_bh4 0 8p
Rcp_bh4 wp_bh4 cm_bh4 2g
Rcn_bh4 wn_bh4 cm_bh4 2g
Msp_bh4 wp_bh4 cm_bh4 0 0 NNR W=700u L=100u
Msn_bh4 wn_bh4 cm_bh4 0 0 NNR W=700u L=100u
Cwp_bo wp_bo 0 8p
Cwn_bo wn_bo 0 8p
Rcp_bo wp_bo cm_bo 2g
Rcn_bo wn_bo cm_bo 2g
Msp_bo wp_bo cm_bo 0 0 NNR W=700u L=100u
Msn_bo wn_bo cm_bo 0 0 NNR W=700u L=100u
Mlp_h1 up_h1 up_h1 vdd vdd PNR W=3000u L=100u
Mln_h1 un_h1 un_h1 vdd vdd PNR W=3000u L=100u
Chp_h1 up_h1 0 0.2p
Chn_h1 un_h1 0 0.2p
Vbnh1 bnh1 0 0.3000
Xn_h1 up_h1 un_h1 ap_h1 an_h1 vdd bnh1 dneuron
X_i11 a_xp1 a_xn1 up_h1 un_h1 wp_w11 wn_w11 vdd dsyn
Xu_i11 a_xp1 a_xn1 ap_h1 an_h1 wp_w11 wn_w11 psig psigb vdd gbnh gupd2
X_i21 a_xp2 a_xn2 up_h1 un_h1 wp_w21 wn_w21 vdd dsyn
Xu_i21 a_xp2 a_xn2 ap_h1 an_h1 wp_w21 wn_w21 psig psigb vdd gbnh gupd2
X_bk1 up_o un_o up_h1 un_h1 wp_o1 wn_o1 vdd dsynb
X_bh1 bp_hi bp_lo up_h1 un_h1 wp_bh1 wn_bh1 vdd dsyn
Xu_bh1 bp_hi bp_lo ap_h1 an_h1 wp_bh1 wn_bh1 psig psigb vdd gbnb gupd2
Mlp_h2 up_h2 up_h2 vdd vdd PNR W=3000u L=100u
Mln_h2 un_h2 un_h2 vdd vdd PNR W=3000u L=100u
Chp_h2 up_h2 0 0.2p
Chn_h2 un_h2 0 0.2p
Vbnh2 bnh2 0 0.3000
Xn_h2 up_h2 un_h2 ap_h2 an_h2 vdd bnh2 dneuron
X_i12 a_xp1 a_xn1 up_h2 un_h2 wp_w12 wn_w12 vdd dsyn
Xu_i12 a_xp1 a_xn1 ap_h2 an_h2 wp_w12 wn_w12 psig psigb vdd gbnh gupd2
X_i22 a_xp2 a_xn2 up_h2 un_h2 wp_w22 wn_w22 vdd dsyn
Xu_i22 a_xp2 a_xn2 ap_h2 an_h2 wp_w22 wn_w22 psig psigb vdd gbnh gupd2
X_bk2 up_o un_o up_h2 un_h2 wp_o2 wn_o2 vdd dsynb
X_bh2 bp_hi bp_lo up_h2 un_h2 wp_bh2 wn_bh2 vdd dsyn
Xu_bh2 bp_hi bp_lo ap_h2 an_h2 wp_bh2 wn_bh2 psig psigb vdd gbnb gupd2
Mlp_h3 up_h3 up_h3 vdd vdd PNR W=3000u L=100u
Mln_h3 un_h3 un_h3 vdd vdd PNR W=3000u L=100u
Chp_h3 up_h3 0 0.2p
Chn_h3 un_h3 0 0.2p
Vbnh3 bnh3 0 0.3000
Xn_h3 up_h3 un_h3 ap_h3 an_h3 vdd bnh3 dneuron
X_i13 a_xp1 a_xn1 up_h3 un_h3 wp_w13 wn_w13 vdd dsyn
Xu_i13 a_xp1 a_xn1 ap_h3 an_h3 wp_w13 wn_w13 psig psigb vdd gbnh gupd2
X_i23 a_xp2 a_xn2 up_h3 un_h3 wp_w23 wn_w23 vdd dsyn
Xu_i23 a_xp2 a_xn2 ap_h3 an_h3 wp_w23 wn_w23 psig psigb vdd gbnh gupd2
X_bk3 up_o un_o up_h3 un_h3 wp_o3 wn_o3 vdd dsynb
X_bh3 bp_hi bp_lo up_h3 un_h3 wp_bh3 wn_bh3 vdd dsyn
Xu_bh3 bp_hi bp_lo ap_h3 an_h3 wp_bh3 wn_bh3 psig psigb vdd gbnb gupd2
Mlp_h4 up_h4 up_h4 vdd vdd PNR W=3000u L=100u
Mln_h4 un_h4 un_h4 vdd vdd PNR W=3000u L=100u
Chp_h4 up_h4 0 0.2p
Chn_h4 un_h4 0 0.2p
Vbnh4 bnh4 0 0.3000
Xn_h4 up_h4 un_h4 ap_h4 an_h4 vdd bnh4 dneuron
X_i14 a_xp1 a_xn1 up_h4 un_h4 wp_w14 wn_w14 vdd dsyn
Xu_i14 a_xp1 a_xn1 ap_h4 an_h4 wp_w14 wn_w14 psig psigb vdd gbnh gupd2
X_i24 a_xp2 a_xn2 up_h4 un_h4 wp_w24 wn_w24 vdd dsyn
Xu_i24 a_xp2 a_xn2 ap_h4 an_h4 wp_w24 wn_w24 psig psigb vdd gbnh gupd2
X_bk4 up_o un_o up_h4 un_h4 wp_o4 wn_o4 vdd dsynb
X_bh4 bp_hi bp_lo up_h4 un_h4 wp_bh4 wn_bh4 vdd dsyn
Xu_bh4 bp_hi bp_lo ap_h4 an_h4 wp_bh4 wn_bh4 psig psigb vdd gbnb gupd2
Mlp_o up_o up_o vdd vdd PNR W=3000u L=100u
Mln_o un_o un_o vdd vdd PNR W=3000u L=100u
Cop up_o 0 0.2p
Con un_o 0 0.2p
X_fo1 ap_h1 an_h1 up_o un_o wp_o1 wn_o1 vdd dsyn
Xu_o1 ap_h1 an_h1 up_o un_o wp_o1 wn_o1 psigb psig vdd gbn gupd2
X_fo2 ap_h2 an_h2 up_o un_o wp_o2 wn_o2 vdd dsyn
Xu_o2 ap_h2 an_h2 up_o un_o wp_o2 wn_o2 psigb psig vdd gbn gupd2
X_fo3 ap_h3 an_h3 up_o un_o wp_o3 wn_o3 vdd dsyn
Xu_o3 ap_h3 an_h3 up_o un_o wp_o3 wn_o3 psigb psig vdd gbn gupd2
X_fo4 ap_h4 an_h4 up_o un_o wp_o4 wn_o4 vdd dsyn
Xu_o4 ap_h4 an_h4 up_o un_o wp_o4 wn_o4 psigb psig vdd gbn gupd2
X_bo bp_hi bp_lo up_o un_o wp_bo wn_bo vdd dsyn
Xu_bo bp_hi bp_lo up_o un_o wp_bo wn_bo psigb psig vdd gbnb gupd2
Mnp up_o nen vtp 0 NNR W=60u L=100u
Mnn un_o nen vtn 0 NNR W=60u L=100u
.ic v(wp_w11)=0.5050 v(wn_w11)=0.4950 v(cm_w11)=0.5
.ic v(wp_w21)=0.4947 v(wn_w21)=0.5053 v(cm_w21)=0.5
.ic v(wp_o1)=0.5256 v(wn_o1)=0.4744 v(cm_o1)=0.5
.ic v(wp_bh1)=0.5042 v(wn_bh1)=0.4958 v(cm_bh1)=0.5
.ic v(wp_w12)=0.4786 v(wn_w12)=0.5214 v(cm_w12)=0.5
.ic v(wp_w22)=0.5145 v(wn_w22)=0.4855 v(cm_w22)=0.5
.ic v(wp_o2)=0.5522 v(wn_o2)=0.4478 v(cm_o2)=0.5
.ic v(wp_bh2)=0.5379 v(wn_bh2)=0.4621 v(cm_bh2)=0.5
.ic v(wp_w13)=0.4719 v(wn_w13)=0.5281 v(cm_w13)=0.5
.ic v(wp_w23)=0.4494 v(wn_w23)=0.5506 v(cm_w23)=0.5
.ic v(wp_o3)=0.4751 v(wn_o3)=0.5249 v(cm_o3)=0.5
.ic v(wp_bh3)=0.5017 v(wn_bh3)=0.4983 v(cm_bh3)=0.5
.ic v(wp_w14)=0.4070 v(wn_w14)=0.5930 v(cm_w14)=0.5
.ic v(wp_w24)=0.4912 v(wn_w24)=0.5088 v(cm_w24)=0.5
.ic v(wp_o4)=0.4502 v(wn_o4)=0.5498 v(cm_o4)=0.5
.ic v(wp_bh4)=0.4707 v(wn_bh4)=0.5293 v(cm_bh4)=0.5
.ic v(wp_bo)=0.4782 v(wn_bo)=0.5218 v(cm_bo)=0.5
.ic v(up_h1)=0.5 v(un_h1)=0.5 v(ap_h1)=0.5 v(an_h1)=0.5
.ic v(up_h2)=0.5 v(un_h2)=0.5 v(ap_h2)=0.5 v(an_h2)=0.5
.ic v(up_h3)=0.5 v(un_h3)=0.5 v(ap_h3)=0.5 v(an_h3)=0.5
.ic v(up_h4)=0.5 v(un_h4)=0.5 v(ap_h4)=0.5 v(an_h4)=0.5
.ic v(up_o)=0.5 v(un_o)=0.5
.tran 1n 2400n uic
.control
run
wrdata e2e_w.dat v(wp_w11) v(wn_w11) v(wp_w21) v(wn_w21) v(wp_o1) v(wn_o1) v(wp_bh1) v(wn_bh1) v(wp_w12) v(wn_w12) v(wp_w22) v(wn_w22) v(wp_o2) v(wn_o2) v(wp_bh2) v(wn_bh2) v(wp_w13) v(wn_w13) v(wp_w23) v(wn_w23) v(wp_o3) v(wn_o3) v(wp_bh3) v(wn_bh3) v(wp_w14) v(wn_w14) v(wp_w24) v(wn_w24) v(wp_o4) v(wn_o4) v(wp_bh4) v(wn_bh4) v(wp_bo) v(wn_bo)
wrdata e2e_o.dat v(up_o) v(un_o) v(a_xp1) v(a_xp2) v(vtp)
.endc
.end
